US07435739B2
1E. 7-Cyclopentyl-5-(6-nitro-1H-benzoimidazol-2-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine
4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic acid (ID, 12.0 g, 488 mmol), 1,2-diamino-4-nitrobenzene (11.2 g, 73.1 mmol), and HATU (26.0 g, 73.1 mmol) were combined and stirred in 242 mL of anhydrous NMP under N2 at 50° C. After 6 hrs, reaction was monitored by LCMS confirming the loss of the starting material and the formation of a new component. The reaction mixture was decant into ten 50 mL centrifuge tubes and concentrated overnight in the GeneVac. Dark brown oil was taken up in EtOAc (1.6 L) and extracted using 1.2 L H2O. The organic layer was washed with H2O (3×900 mL) and then concentrated. The residue (dark brown gum) was triturate in ˜900 mL CH2Cl2, 10.02 g of a reddish black solid was collected after filtration and vacuum drying. 1H NMR suggested it contained the coupling product plus 20-30% impurity. The solid was again taken up in 1.5 L EtOAc, washed with H2O (5×900 mL). The organic layer was concentrated and residue triturated in ˜900 mL CH2Cl2, filtered and dried to furnish 7.65 g of a yellow solid. 1H NMR and LCMS suggested the coupling product plus minor impurities (88% pure by LCMS at 210 nm, M/Z 381.5, retention time 2.3 min. with analytical HPLC method 1).

reactant | 4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic acid | 488 mmol, 12.0 g | NC=1C2=C(N=CN1)N(C=C2C(=O)O)C2CCCC2 | C12H14N4O2
reactant | 1,2-diamino-4-nitrobenzene | 73.1 mmol, 11.2 g | NC1=C(C=C(C=C1)[N+](=O)[O-])N | C6H7N3O2
reactant | HATU | 73.1 mmol, 26.0 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | NMP | 242 mL | CN1CCCC1=O | C5H9NO
product | 7-Cyclopentyl-5-(6-nitro-1H-benzoimidazol-2-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | 7.65 g | C1(CCCC1)N1C=C(C2=C1N=CN=C2N)C2=NC1=C(N2)C=C(C=C1)[N+](=O)[O-] | C18H17N7O2
